US05001236
Under a nitrogen blanket, 7.47 g of 80 percent sodium hydride (Aldrich; 0.249 mol) and 600 mL of anhydrous dimethyl sulfoxide (DMSO) were added to a 2-L round bottom flask, which had been fitted with a reflux condenser, nitrogen adapter and magnetic stirrer. The resulting solution was stirred for 45 minutes, and then 50.0 g of dl-cis-2-(4-methoxyphenyl)-2,3-dihydro-3-hydroxy -1,5-benzothiazepin-4(5H)-one (0.166 mol) was added in two portions over a ten minute period. A fairly vigorous evolution of hydrogen gas ensued. The reaction mixture was stirred for 50 minutes, and then 40 mL of anhydrous 1,2-dichloroethane (Aldrich; 0.508 mol) was added all at once. The reaction mixture was stirred for 40 hours, whereupon 750 mL of cold water was added thereto. Ether was used to extract the desired alkylated product, which was dried over drying agent. This product was taken up with dichloromethane, and it was dried further. The product was chromatographed on 70-230 mesh silica gel column, with a 2:1 hexane to ethyl acetate eluent. Concentration under high vacuum yielded 15.05 g of dl-cis-2-(4-methoxyphenyl) -2,3-dihydro-3-hydroxy-5-(2-chloroethyl)-1,5-benzothiazepin -4(5H)-one (24.9 percent of theory).

reactant | sodium hydride | 0.249 mol, 7.47 g | [H-].[Na+]
reactant | cis-2-(4-methoxyphenyl)-2,3-dihydro-3-hydroxy -1,5-benzothiazepin-4(5H)-one | 0.166 mol | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=CC=C2 | C16H15NO3S
reactant | hydrogen | [H][H] | H2
reactant | 1,2-dichloroethane | 0.508 mol, 40 mL | ClCCCl | C2H4Cl2
solvent | Ether | CCOCC | C4H10O
solvent | water | 750 mL | O | H2O
solvent | dimethyl sulfoxide | 600 mL | CS(=O)C | C2H6OS
product | cis-2-(4-methoxyphenyl) -2,3-dihydro-3-hydroxy-5-(2-chloroethyl)-1,5-benzothiazepin -4(5H)-one | 24.9 percent | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCCl)C=CC=C2 | C18H18ClNO3S
